US07019453B2
To a solution of 4-(trifluorovinyloxy)benzaldehyde (about 35 mmol) in benzene/ethanol (75/75 mL) at room temperature was added sodium borohydride (1.8 g, 1.3 eq). The resulting mixture was stirred at room temperature for 3 h. Under reduced pressure, all the solvent was evaporated. The residue was extracted by CH2Cl2 for 1 h and dried over sodium sulfate. The product was purified by chromatography using CH2Cl2 as the eluent to afford 4-(trifluorovinyloxy)benzyl alcohol as colorless oil (5.0 g, yield 68%). 1H NMR (CDCl3): δ 7.36 (d, J=8.8 Hz, 2H), 7.09 (d, J=8.8 Hz, 2H), 4.67 (s, 2H), 2.03 (s, 1H).

reactant | 4-(trifluorovinyloxy)benzaldehyde | about 35 mmol | FC(=C(F)F)OC1=CC=C(C=O)C=C1 | C9H5F3O2
reactant | sodium borohydride | 1.8 g, 1.3 eq | [BH4-].[Na+]
solvent | benzene ethanol | 75 mL | C1=CC=CC=C1.C(C)O
product | 4-(trifluorovinyloxy)benzyl alcohol | 5.0 g, yield 68% | FC(=C(F)F)OC1=CC=C(CO)C=C1 | C9H7F3O2
